US05112867
2-[Bis(4-acetoxyphenyl)methyl]benzoyl chloride
In 50 ml of methylene chloride was dissolved 7 g of 2-[bis(4-acetoxyphenyl)methyl]benzoic acid obtained by Reference Example 1, and then 10 ml of thionyl chloride was added dropwise to the solution at room temperature. The reaction mixture was stirred for 2 hours, and the reaction mixture was concentrated under reduced pressure to afford 11.33 g of the desired compound as an oily matter.

reactant | 2-[bis(4-acetoxyphenyl)methyl]benzoic acid | 7 g | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C(=O)O)C=CC=C1)C1=CC=C(C=C1)OC(C)=O | C24H20O6
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[Bis(4-acetoxyphenyl)methyl]benzoyl chloride | 11.33 g | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C(=O)Cl)C=CC=C1)C1=CC=C(C=C1)OC(C)=O | C24H19ClO5
